Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
QUINAPRIL HCI / hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
Lumbar radiculopathy
 
Major Surgical or Invasive Procedure:
___: L4-5 lamis, resection Left L4-5 and Right L4 synovial 
cysts

 
History of Present Illness:
___ male with lumbar radiculopathy secondary to synovial 
cysts presents on ___ for elective left L4-5 and right L4 
synovial cyst resections.
 
Past Medical History:
HTN, HLD, SVT now s/p cardiac ablation without issues since, 
COPD, current tobacco use, history PNA requiring hospitalization 
___ years ago, gout, s/p left inguinal hernia repair, s/p left 
shoulder repair, s/p left ankle repair, s/p deviated septum 
repair
 
Social History:
___
Family History:
NC
 
Physical Exam:
AT DISCHARGE:
************
Exam:

Opens eyes: [X]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None

Face Symmetric: [x]Yes [ ]No

Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
Right 5         5      5       5      5
Left 5         5      5       5      5

IPQuadHamATEHLGast
Right5         5      5      5        5       5
Left5         5      5      5        5       5

No hofffmans/clonus

C/o tingling at left knee, down left foot (baseline). right foot
tingling milder today.

Wound - dressing with mild serosanguinous staining

 
Pertinent Results:
See OMR for pertinent lab results and imaging
 
Brief Hospital Course:
___ male presented electively on ___ for left L4-5 
and right L4 synovial cyst resections. The case was 
uncomplicated - please see Dr. ___ report for 
further details. Following the procedure, he was extubated in 
the OR before being brought to the PACU for close monitoring. He 
was then transferred to the floor for ongoing neurologic checks 
overnight. On POD1, he was evaluated by ___, who recommended 
outpatient ___ and rolling walker. He tolerated a PO diet, and 
passed flatus. He carried out all ADLs at near baseline. His 
pain was well controlled. He was discharged home in care of his 
wife, with plan for outpatient ___ and clinic follow-up in ___ 
days for a wound check, and again in ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Hydroxychloroquine Sulfate 200 mg PO BID 
4. valsartan-hydrochlorothiazide 320-25 mg oral DAILY 
5. Viagra (sildenafil) 100 mg oral DAILY:PRN ed 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild/Fever  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - First Line  
3.  Cephalexin 500 mg PO Q12H Duration: 7 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth twice a day Disp 
#*14 Capsule Refills:*0 
4.  Diazepam 2 mg PO Q8H:PRN muscle spasm 
RX *diazepam 2 mg 1 tablet by mouth q8hrs Disp #*21 Tablet 
Refills:*0 
5.  Docusate Sodium 100 mg PO BID  
6.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 - 2 tablet(s) by mouth q6hrs Disp #*50 
Tablet Refills:*0 
7.  Senna 17.2 mg PO QHS  
8.  Allopurinol ___ mg PO DAILY  
9.  Hydroxychloroquine Sulfate 200 mg PO BID  
10.  Simvastatin 20 mg PO QPM  
11.  valsartan-hydrochlorothiazide 320-25 mg oral DAILY  
12.  Viagra (sildenafil) 100 mg oral DAILY:PRN ed  
13.Outpatient Physical Therapy
WBAT, evaluate and treat
14.Rolling walker

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lumbar radiculopathy
Lumbar synovial cysts

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Discharge Instructions

Spine Surgery without Fusion

Surgery:
• Your dressing may come off on the second day after surgery. 
• Your incision is closed with staples. You will need staple 
removal. Please keep your incision dry until staple removal.
• Do not apply any lotions or creams to the site. 
• Please avoid swimming for two weeks after suture/staple 
removal.
• Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity:
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• No contact sports until cleared by your neurosurgeon. 

Medications:
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
• It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the incision 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___